US07626034B2
Ru(OAc)2((R)-dm-binap) (0.248 g, 0.260 mmol), methyl 3-oxo-4-phenylbutanoate (10.00 g, 52.0 mmol), ammonium acetate (4.01 g, 52.0 mmol) and methanol (50 mL) were placed in a 200 mL stainless steel autoclave under nitrogen atmosphere, and the mixture was stirred at 80° C. for 2 hours. The reaction mixture was cooled down to room temperature and further stirred under a hydrogen pressure of 3 MPa at 80° C. for 14 hours. After completion of the reaction, the solvent was removed by evaporation to give methyl (3R)-3-amino-4-phenylbutanoate as a crude material (13.01 g). The enantiomeric excess of methyl (3R)-3-amino-4-phenylbutanoate in the crude product was determined to be 94.7% ee by HPLC analysis using a SUMICHIRAL OA-4100R column after conversion into methyl (3R)-3-(4-nitrobenzoylamino)-4-phenylbutanoate.

reactant | methyl 3-oxo-4-phenylbutanoate | 52.0 mmol, 10.00 g | O=C(CC(=O)OC)CC1=CC=CC=C1 | C11H12O3
reactant | ammonium acetate | 52.0 mmol, 4.01 g | C(C)(=O)[O-].[NH4+]
solvent | methanol | 50 mL | CO | CH4O
product | methyl (3R)-3-amino-4-phenylbutanoate | N[C@@H](CC(=O)OC)CC1=CC=CC=C1 | C11H15NO2
